US07750002B2
Amine preparation: 2-Thiazolecarboxaldehyde was converted to the corresponding alcohol by treatment with sodium borohydride. Reaction with methanesulfonyl chloride yielded methanesulfonic acid thiazol-2-ylmethyl ester. A mixture of methanesulfonic acid thiazol-2-ylmethyl ester (393 mg), (3R,5S)-3,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester (described previously, 435 mg), potassium carbonate (309 mg) and tetrabutyl ammonium iodide (827 mg) was heated to reflux in MeCN (10 mL). After 4 days the reaction mixture was cooled, diluted with ethyl acetate, washed with water and dried (MgSO4). The solvent was evaporated and the residue purified by flash chromatography to give (R)-3,5-dimethyl-4-thiazol-2-ylmethyl-piperazine-1-carboxylic acid (S)-tert-butyl ester (314 mg). Treatment of this compound with HCl in DCM/MeOH yielded the desired amine, which was isolated as the hydrochloride salt.

reactant | 2-Thiazolecarboxaldehyde | S1C(=NC=C1)C=O | C4H3NOS
reactant | sodium borohydride | [BH4-].[Na+]
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | methanesulfonic acid thiazol-2-ylmethyl ester | S1C(=NC=C1)COS(=O)(=O)C | C5H7NO3S2
